### PR TITLE
[Merged by Bors] - feat(Valuation/RankOne): equivalence with ValuativeRel.isRankLeOne

### PR DESCRIPTION
**Pull request by pechersky**
refactor to have Valuation.RankOne extend the new Valuation.IsNontrivial and characterization iffs for ValuativeRel.IsNontrivial relating to units of value group, or Valuation.IsNontrivial

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 1]
```diff
@@ -592,6 +603,34 @@ variable (R) in
...
+lemma isNontrivial_iff_isNontrivial :
+    IsNontrivial R ↔ (valuation R).IsNontrivial := by
+  constructor
+  · rintro ⟨r, hr, hr'⟩
+    induction r using ValueGroupWithZero.ind with | mk r s
+    by_cases hs : valuation R s = 1
+    · refine ⟨r, ?_, ?_⟩
+      · simpa [valuation] using hr
+      · simp only [ne_eq, ValueGroupWithZero.mk_eq_one, not_and, valuation, Valuation.coe_mk,
+        MonoidWithZeroHom.coe_mk, ZeroHom.coe_mk, OneMemClass.coe_one] at hr' hs ⊢
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
          MonoidWithZeroHom.coe_mk, ZeroHom.coe_mk, OneMemClass.coe_one] at hr' hs ⊢
```

**Comment by kbuzzard** [comment]
This LGTM. @adamtopaz do you have any comments?

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 2]
```diff
@@ -259,6 +266,10 @@ theorem ValueGroupWithZero.mk_one_one : ValueGroupWithZero.mk (1 : R) 1 = 1 :=
   ValueGroupWithZero.sound (by simp) (by simp)
 
 @[simp]
+theorem ValueGroupWithZero.mk_eq_one (x : R) (y : posSubmonoid R) :
+    ValueGroupWithZero.mk x y = 1 ↔ x ≤ᵥ y ∧ y.val ≤ᵥ x := by
```
Comment (adamtopaz) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
    ValueGroupWithZero.mk x y = 1 ↔ x ≤ᵥ y ∧ (y : R) ≤ᵥ x := by
```

**Review by adamtopaz — COMMENTED** [review]
LGTM!
bors d+

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/RingTheory/Valuation/ValuativeRel.lean]: Should we give this notation a binrel elaborator?

Comment (adamtopaz) [reply Mathlib/RingTheory/Valuation/ValuativeRel.lean]: yes please!

**Comment by faenuccio** [comment]
Unfortunately this approach only works for the "canonical" valuation and does not take into account the new changes to `RankOne` in #26872. @pechersky can you open a PR proving the isomorphism (as LinearOrderedCommGroupWithZero, I suppose) between `ValueGroupWithZero` and `valueGroup₀ (valuation R)`? This would allow your `Valuation.RankOne.ofRankLeOneStruct` to stay true with the new general definition of `RankOne`?
